US08580832B2
D. 1-{5-[4-(2-Isopropyl-phenoxy)-benzylidene]-4-oxo-4,5-dihydro-thiazol-2-yl}-azetidine-3-carboxylic acid
was prepared from 5-[4-(2-Isopropyl-phenoxy)-benzylidene]-2-methylsulfanyl-thiazol-4-one and azetidine-3-carboxylic acid and substituting MeCN with DMF as described in Example 5C

reactant | 5-[4-(2-Isopropyl-phenoxy)-benzylidene]-2-methylsulfanyl-thiazol-4-one | C(C)(C)C1=C(OC2=CC=C(C=C3C(N=C(S3)SC)=O)C=C2)C=CC=C1 | C20H19NO2S2
reactant | azetidine-3-carboxylic acid | N1CC(C1)C(=O)O | C4H7NO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-{5-[4-(2-Isopropyl-phenoxy)-benzylidene]-4-oxo-4,5-dihydro-thiazol-2-yl}-azetidine-3-carboxylic acid | C(C)(C)C1=C(OC2=CC=C(C=C3C(N=C(S3)N3CC(C3)C(=O)O)=O)C=C2)C=CC=C1 | C23H22N2O4S
